US05254755
As another preparation example, 2-difluoromethyl-1,1,1,3,3-pentafluoro-2-propanol may be prepared by fluorinating commercially available 1,1,1,3,3-pentachloro-2-propanone to form 1,1,1,3,3-pentafluoro-2-propanone which may then be reacted with CF2 carbene to form 2-difluoromethyl-1,1,3,3,3-tetrafluoro-1-propene. The 2-difluoromethyl-1,1,3,3,3-tetrafluoro-1-propene may then be reacted with sulfuric acid and then water to form 2-difluoromethyl-1,1,1,3,3-pentafluoro-2-propanol.

reactant | 2-difluoromethyl-1,1,1,3,3-pentafluoro-2-propanol | FC(C(C(F)(F)F)(C(F)F)O)F | C4H3F7O
reactant | 1,1,1,3,3-pentachloro-2-propanone | ClC(C(C(Cl)Cl)=O)(Cl)Cl | C3HCl5O
product | 1,1,1,3,3-pentafluoro-2-propanone | FC(C(C(F)F)=O)(F)F | C3HF5O
